US07456164B2
1-cyclopropyl-N-(cyclopropylmethyl)-N-({4-[4-(3-pyrrolidin-1-ylpropoxy)phenyl]-tetrahydro-2H-pyran-4-yl}methyl)methanamine
The title compound (169 mg, 51%) was prepared from {4-[4-(3-pyrrolidin-1-ylpropoxy)phenyl]tetrahydropyran-4-yl}methylamine free base and cyclopropane carboxaldehyde similarly to the procedure used for example 54. 3 equivalents of cyclopropane carboxaldehyde were required for the synthesis of this Example. 1H NMR (400 MHz, CDCl3) δ −0.04 (q, 4H), 0.39 (q, 4H), 0.71-0.76 (m, 2H), 1.80-1.86 (m, 4H), 1.94-2.12 (m, 6H), 2.16 (d, 4H), 2.55-2.72 (m, 8H), 3.51 (t, 2H), 3.75-3.79 (m, 2H), 4.04 (t, 2H), 6.88 (d, 2H), 7.21 (d, 2H). HRMS ESI+ m/z 427.3306 [MH]+.

reactant | {4-[4-(3-pyrrolidin-1-ylpropoxy)phenyl]tetrahydropyran-4-yl}methylamine | N1(CCCC1)CCCOC1=CC=C(C=C1)C1(CCOCC1)CN | C19H30N2O2
reactant | cyclopropane carboxaldehyde | C1(CC1)C=O | C4H6O
reactant | cyclopropane carboxaldehyde | 3 equivalents | C1(CC1)C=O | C4H6O
product | 1-cyclopropyl-N-(cyclopropylmethyl)-N-({4-[4-(3-pyrrolidin-1-ylpropoxy)phenyl]-tetrahydro-2H-pyran-4-yl}methyl)methanamine | 169 mg, 51% | C1(CC1)CN(CC1(CCOCC1)C1=CC=C(C=C1)OCCCN1CCCC1)CC1CC1 | C27H42N2O2
